US07754737B2
(S)-2-(tert-butoxycarbonylamino)-3-cyclohexylpropyl methanesulfonate (28 g, 83.6 mmol) was dissolved into a solution of methylamine in ethanol (about 30% by weight, 300 mL). The reaction was heated at 50-60° C. overnight and concentrated in vacuo. The residue was dissolved in EtOAc, washed with brine (2×100 mL), dried over MgSO4, and concentrated to give the crude product. This crude product was purified by flash chromatography (AcOEt:Hex.=2:1 first, then EtOAc:MeOH=1:1) to afford pure (S)-tert-butyl 1-cyclohexyl-3-(methylamino)propan-2-ylcarbamate (10.6 g, 47%). 1H NMR (400 MHz, CDCl3): 4.81 (brs, 1H), 3.89 (m, 1H), 2.77 (m, 2H), 2.54 (s, 3H), 2.44 (m, 2H), 1.78 (m, 1H), 1.67 (m, 4H), 1.44 (s, 9H), 1.50-1.10 (m, 6H), 1.00-0.77 (m, 2H), 0.05 (s, 9H). MS (E/Z): 271 (M+H+).

reactant | (S)-2-(tert-butoxycarbonylamino)-3-cyclohexylpropyl methanesulfonate | 83.6 mmol, 28 g | CS(=O)(=O)OC[C@H](CC1CCCCC1)NC(=O)OC(C)(C)C | C15H29NO5S
reactant | methylamine | CN | CH5N
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | (S)-tert-butyl 1-cyclohexyl-3-(methylamino)propan-2-ylcarbamate | 10.6 g, 47% | C1(CCCCC1)C[C@@H](CNC)NC(OC(C)(C)C)=O | C15H30N2O2
